US06444851B1
The reaction vessel is charged with 5.0 g Midodrine base and 60 ml ethanol. The mixture is heated to reflux to obtain a clear solution. To the hot mixture is added 6.3 ml of a 22% solution of hydrochloric acid in isopropanol in portions. During the addition, the Midodrine HCl will crystallize from solution. After cooling to 5°-10° C., the product is filtered to afford 4.8 g (96% yield) of Midodrine HCl (m.p.: 200.8°-201.8° C.).

reactant | Midodrine | 5.0 g | COC=1C=CC(=C(C1)C(CNC(=O)CN)O)OC | C12H18N2O4
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | Midodrine HCl | 4.8 g, 96% yield | COC=1C=CC(=C(C1)C(CNC(=O)CN)O)OC.Cl | InChI=1S/C12H18N2O4.ClH/c1-17-8-3-4-11(18-2)9(5-8)10(15)7-14-12(16)6-13;/h3-5,10,15H,6-7,13H2,1-2H3,(H,14,16);1H
